US07319101B2
a) Methyl 2,2-diphenyl-6-pyridin-4-yl-1,3-benzodioxole-4-carboxylate
Methyl 6-bromo-2,2-diphenyl-1,3-benzodioxole-4-carboxylate (400 mg, 0.973 mmol, 1 eq.), Pd(PPh3)4 (100 mg, 0.087 mmol, 0.09 eq.), bis(pinacolato)diboron (320 mg, 1.26 mmol, 1.3 eq.) and KOAc (150 mg, 1.5 mmol, 1.5 eq.), then Pd(PPh3)4 (112 mg, 0.097 mmol, 0.1 eq.), 2-bromo-pyridine hydrochloride (265 mg, 1.36 mmol, 1.4 eq.) and K2CO3 (680 mg, 4.9 mmol, 5 eq.) were used according to GP6 to yield the title product as a colorless solid.

reactant | Methyl 6-bromo-2,2-diphenyl-1,3-benzodioxole-4-carboxylate | 0.973 mmol, 400 mg, 1 eq. | BrC=1C=C(C2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C1)C(=O)OC | C21H15BrO4
reactant | bis(pinacolato)diboron | 1.26 mmol, 320 mg, 1.3 eq. | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 1.5 mmol, 150 mg, 1.5 eq. | CC(=O)[O-].[K+]
reactant | 2-bromo-pyridine hydrochloride | 1.36 mmol, 265 mg, 1.4 eq. | Cl.BrC1=NC=CC=C1
reactant | K2CO3 | 4.9 mmol, 680 mg, 5 eq. | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.087 mmol, 100 mg, 0.09 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(PPh3)4 | 0.097 mmol, 112 mg, 0.1 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 2,2-diphenyl-6-pyridin-4-yl-1,3-benzodioxole-4-carboxylate | C1(=CC=CC=C1)C1(OC2=C(O1)C=C(C=C2C(=O)OC)C2=CC=NC=C2)C2=CC=CC=C2 | C26H19NO4
